US04751225
A mixture of anhydrous sodium acetate (82 mg, 1.0 mmol), (R)-1-methyl-2-(4-phenoxyphenoxy)ethyl methanesulfonate (250 mg, 0.78 mmol; ee.: 99.4%) and dimethylformamide (5 ml) was stirred at an inner temperature of 100° to 110° C. for 5 hours. After allowed to cool, ice-water was added thereto, and the reaction mixture was extracted with toluene three times. The toluene layer was dried over anhydrous magnesium sulfate. The solvent was removed, and the residue was purified by thin layer chromatography using silica gel to give (S)-(-)-1-methyl-2-(4- phenoxyphenoxy)ethyl acetate (158 mg). [α]D23 =-30.6° (CHCl3, c=1). ee.: 88.8%.

reactant | sodium acetate | 1.0 mmol, 82 mg | C(C)(=O)[O-].[Na+]
reactant | (R)-1-methyl-2-(4-phenoxyphenoxy)ethyl methanesulfonate | 0.78 mmol, 250 mg | CS(=O)(=O)O[C@@H](COC1=CC=C(C=C1)OC1=CC=CC=C1)C | C16H18O5S
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | (S)-(-)-1-methyl-2-(4- phenoxyphenoxy)ethyl acetate | 158 mg | C(C)(=O)O[C@H](COC1=CC=C(C=C1)OC1=CC=CC=C1)C | C17H18O4
